US08198433B2
Preparation of 1,2-Dichloro-4-Lauroylbenzene
In a dry 250 ml three-neck flask with thermometer, reflux condenser (under nitrogen) and dropping funnel, 17.73 g of AlCl3 (0.133 mol) were suspended in 50 ml of 1,2-dichlorobenzene and cooled to 0° C. While stirring vigorously, 31.6 ml of lauroyl chloride (0.133 mol) were slowly added dropwise (1 hour). The mixture was then allowed to cool until the temperature had reached room temperature. Subsequently, the mixture was heated gradually to approximately 100-105° C., in the course of which a change in colour was evident (from ochre to dark red). Subsequently, the mixture was stirred at this temperature for 5 hours and left to stand overnight at room temperature. To separate the complex, this mixture was cautiously poured onto 200 g of ice (5% HCl) while stirring. The mixture became a mustard-coloured paste which was extracted in ethyl acetate. The organic layer was then removed in a separating funnel and washed to neutrality with saturated sodium hydrogencarbonate solution (2×50 ml) and water. After drying over sodium sulphate, the ethyl acetate was evaporated off. The remaining 1,2-dichlorobenzene was distilled off under reduced pressure. The residue was chromatographed through a column (length=20 cm, diameter=5 cm) on silica gel (Merck 0.040-0.063 nm) with dichloromethane as the eluent.

reactant | AlCl3 | 0.133 mol, 17.73 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | lauroyl chloride | 0.133 mol, 31.6 ml | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,2-Dichloro-4-Lauroylbenzene | ClC1=C(C=C(C=C1)C(CCCCCCCCCCC)=O)Cl | C18H26Cl2O
